US05736523
3-methoxycarbonyl-3-methyl-5,8-dimethoxy isochroman
A solution of di-isopropylamine (616.8 μl, 4.37 mmol) in THF (10 ml) was cooled to 0° C. and degassed briefly. n-Butyl lithium (1.6M in hexane, 2.60 ml, 4.17 mmol) was added. After stirred for 30 minutes at 0° C., the solution was further cooled to -78° C. A solution of 5,8-dimethoxy-3-methoxycarbonylisochroman (1.0 g, 3.97 mmol) in THF (10 ml), pre-degassed, was added slowly. The resulting yellow solution was stirred for 1 hour at -78° C. before the addition of methyliodide (1.01 ml, 16 mmol). After stirred further for 45 minutes, sat. NH4Cl solution was added. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried and evaporated to give a crude product which was chromatographed (hexane:EtOAc=3:1) to give the desired product as a solid (650 mg, m p. 73.0°-74.5° C.) and another fraction (192 mg) which contained 66% of titled product and 34% of the starting material.

reactant | di-isopropylamine | 4.37 mmol, 616.8 μl | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyl lithium | 4.17 mmol, 1.6M, 2.60 ml | C(CCC)[Li]
reactant | 5,8-dimethoxy-3-methoxycarbonylisochroman | 3.97 mmol, 1.0 g | COC1=C2CC(OCC2=C(C=C1)OC)C(=O)OC | C13H16O5
reactant | methyliodide | 16 mmol, 1.01 ml | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-methoxycarbonyl-3-methyl-5,8-dimethoxy isochroman | 650 mg | COC(=O)C1(OCC2=C(C=CC(=C2C1)OC)OC)C | C14H18O5
